US04857645
To a solution of 1.69 g of diphenylamine in 10 ml of toluene was added 5.5 ml of a solution of 2.02M boron trichloride--toluene under ice-cooling, and the mixture was refluxed with heating on an oil bath for 1 hr. After ice-cooling, the reaction mixture was mixed with 1 ml of methyl thiocyanate and stirred at room temperature for 16 hr. The reaction mixture was mixed with 20 ml of water and refluxed with heating on an oil bath for 30 min. The insoluble materials were filtered off and the toluene layer was dried over anhydrous magnesium sulfate, chromatographed on a column of silica gel and eluted with toluene. The solvent was concentrated to give 1.03 g of N-phenylthioanthranilic acid S-methyl ester as a yellow oil.

reactant | diphenylamine | 1.69 g | C1(=CC=CC=C1)NC1=CC=CC=C1 | C12H11N
reactant | boron trichloride | 2.02M | B(Cl)(Cl)Cl | BCl3
reactant | methyl thiocyanate | 1 ml | CSC#N | C2H3NS
reactant | water | 20 ml | O | H2O
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | N-phenylthioanthranilic acid S-methyl ester | 1.03 g, Yield: 42% | CSC(C=1C(NC2=CC=CC=C2)=CC=CC1)=O | C14H13NOS
